US07964597B2
(3R,5S)-1-[(4-Nitrophenyl)methyl]-3,5-dimethylpiperazine (D9)
A mixture of 4-nitrobenzaldehyde (6.612 g, 43.8 mmol) and (2R,6S)-2,6-dimethylpiperazine (5 g, 43.8 mmol) in 1,2-DCE (100 mL) was stirred at room temperature for 2 h. Sodium tri(acetoxy)borohydride (13.92 g, 65.7 mmol) was added and the reaction was stirred at room temperature over-weekend. The reaction mixture was diluted with DCM and washed with saturated aqueous NaHCO3 solution. The aqueous wash was extracted with 10% MeOH/DCM and the combined organics were dried and concentrated. Column chromatography eluting with 0-10% MeOH/DCM gave the title compound as a cream solid (4.278 g). δH (CDCl3, 400 MHz) 8.18 (2H, d), 7.51 (2H, d), 3.57 (2H, s), 2.97 (2H, m), 2.72 (2H, m), 1.72 (2H, m), 1.06 (6H, d). MS (ES+): MH+ 250.2.

reactant | 4-nitrobenzaldehyde | 43.8 mmol, 6.612 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | (2R,6S)-2,6-dimethylpiperazine | 43.8 mmol, 5 g | C[C@H]1N[C@H](CNC1)C | C6H14N2
reactant | Sodium tri(acetoxy)borohydride | 65.7 mmol, 13.92 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-DCE | 100 mL | ClCCCl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (3R,5S)-1-[(4-Nitrophenyl)methyl]-3,5-dimethylpiperazine | 4.278 g | [N+](=O)([O-])C1=CC=C(C=C1)CN1C[C@H](N[C@H](C1)C)C | C13H19N3O2
